### PR TITLE
feat: upstream `LawfulMonadLift(T)` from Batteries

### PR DESCRIPTION
**Pull request by datokrat**
This PR upstreams the `LawfulMonadLift(T)` classes, lemmas and instances from Batteries into Core because the iterator library needs them in order to prove lemmas about the `mapM` operator, which relies on `MonadLiftT`.

### CODE REVIEW

File: src/Init/Control/Lawful/MonadLift.lean [hunk 1]
```diff
@@ -0,0 +1,11 @@
+/-
+Copyright (c) 2021 Microsoft Corporation. All rights reserved.
```
Comment (TwoFX) [inline src/Init/Control/Lawful/MonadLift.lean:2]: How did you come up with these copyright headers? The file you're upstreaming is `Copyright (c) 2025 Quang Dao.`.

Comment (datokrat) [reply src/Init/Control/Lawful/MonadLift.lean:2]: I think they are from `Init.Control.Lawful.Basic`, where the code lived for some time. Will fix.

Comment (datokrat) [reply src/Init/Control/Lawful/MonadLift.lean]: I changed the copyright headers so that they are like they were in Batteries, I hope that's the right way.

**Comment by datokrat** [comment]
https://github.com/leanprover-community/batteries/pull/1235 deletes the now-duplicated file from Batteries.

**Comment by datokrat** [comment]
@quangvdao FYI, I'm upstreaming `LawfulMonadLift(T)` because some lemmas rely on a well-behaved `MonadLift` instance. I only had to make a few small changes because `Init` uses the new module system.

File: src/Init/Control/Lawful/MonadLift/Instances.lean [hunk 2]
```diff
@@ -0,0 +1,154 @@
...
+    simp only [MonadLift.monadLift, bind]
+    unfold ExceptCpsT.lift
+    simp only [bind_assoc]
+
+end ExceptCpsT
+
+namespace Id
+
+/-- The `pure` operation of a monad `m` can be seen as a lifting operation from `Id` to `m`. -/
+instance [Pure m] : MonadLift Id m where
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Init/Control/Lawful/MonadLift/Instances.lean:146]: Oh, you're right. In light of [this previous discussion](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/MonadLift.20Id.20m.20instance/with/406794946), I'll also think about whether `Init` is the best place for it (or perhaps even all the `LawfulMonadLift` code).

[the remark this answers is not in the document]
Comment (datokrat) [reply src/Init/Control/Lawful/MonadLift/Instances.lean]: I preliminarily moved it to `Init.Control.Id`.

File: src/Init/Control/Id.lean [hunk 3]
```diff
@@ -59,6 +59,12 @@ This function is the identity function. Because its parameter has type `Id α`,
 @[always_inline, inline, expose]
 protected def run (x : Id α) : α := x
 
+/--
+The `pure` operation of a monad `m` can be seen as a lifting operation from `Id` to `m`.
+-/
+instance [Pure m] : MonadLift Id m where
```
Comment (Rob23oba) [inline src/Init/Control/Id.lean:65]: This should probably be `MonadLiftT`, otherwise this is tried everytime we want to synthesize `MonadLiftT m n`:
```
[Meta.synthInstance] ✅️ MonadLiftT IO Lean.Elab.Tactic.TacticM ▼
  [] new goal MonadLiftT IO Lean.Elab.Tactic.TacticM ▶
  [] ❌️ apply instMonadLiftT to MonadLiftT IO Lean.Elab.Tactic.TacticM ▶
  [] ✅️ apply instMonadLiftTOfMonadLift to MonadLiftT IO Lean.Elab.Tactic.TacticM ▼
    [tryResolve] ✅️ MonadLiftT IO Lean.Elab.Tactic.TacticM ≟ MonadLiftT IO Lean.Elab.Tactic.TacticM 
    [] new goal MonadLift _tc.1 Lean.Elab.Tactic.TacticM ▶
  [] ✅️ apply @instMonadLiftIdOfPure to MonadLift Id Lean.Elab.Tactic.TacticM ▼
    [tryResolve] ✅️ MonadLift Id Lean.Elab.Tactic.TacticM ≟ MonadLift Id Lean.Elab.Tactic.TacticM 
    [] new goal Pure Lean.Elab.Tactic.TacticM ▼
      [instances] #[@Applicative.toPure] 
  -- find `Pure Lean.Elab.Tactic.TacticM` ...
  [] ❌️ apply instMonadLiftT to MonadLiftT IO Id ▶
  [] ✅️ apply instMonadLiftTOfMonadLift to MonadLiftT IO Id ▶
  [] ✅️ apply @instMonadLiftIdOfPure to MonadLift Id Id ▶
  -- find `Pure Id` ...
  [resume] propagating MonadLift Id Id to subgoal MonadLift Id Id of MonadLiftT IO Id ▶
  [] ✅️ apply @ReaderT.instMonadLift to MonadLift (StateRefT' IO.RealWorld Lean.Elab.Tactic.State Lean.Elab.TermElabM)
        Lean.Elab.Tactic.TacticM ▶
  [resume] propagating MonadLift (StateRefT' IO.RealWorld Lean.Elab.Tactic.State Lean.Elab.TermElabM)
        (ReaderT Lean.Elab.Tactic.Context
          (StateRefT' IO.RealWorld Lean.Elab.Tactic.State
            Lean.Elab.TermElabM)) to subgoal MonadLift
        (StateRefT' IO.RealWorld Lean.Elab.Tactic.State Lean.Elab.TermElabM)
        Lean.Elab.Tactic.TacticM of MonadLiftT IO Lean.Elab.Tactic.TacticM ▶
  [] ❌️ apply instMonadLiftT to MonadLiftT IO (StateRefT' IO.RealWorld Lean.Elab.Tactic.State Lean.Elab.TermElabM) ▶
  [] ✅️ apply instMonadLiftTOfMonadLift to MonadLiftT IO (StateRefT' IO.RealWorld Lean.Elab.Tactic.State Lean.Elab.TermElabM) ▶
  [] ✅️ apply @instMonadLiftIdOfPure to MonadLift Id
        (StateRefT' IO.RealWorld Lean.Elab.Tactic.State Lean.Elab.TermElabM) ▶
  -- find `Pure (StateRefT' IO.RealWorld Lean.Elab.Tactic.State Lean.Elab.TermElabM)`
  [] ✅️ apply @StateRefT'.instMonadLift to MonadLift Lean.Elab.TermElabM
        (StateRefT' IO.RealWorld Lean.Elab.Tactic.State Lean.Elab.TermElabM) ▶
  [resume] propagating MonadLift Lean.Elab.TermElabM
        (StateRefT' IO.RealWorld Lean.Elab.Tactic.State
          Lean.Elab.TermElabM) to subgoal MonadLift Lean.Elab.TermElabM
        (StateRefT' IO.RealWorld Lean.Elab.Tactic.State
          Lean.Elab.TermElabM) of MonadLiftT IO (StateRefT' IO.RealWorld Lean.Elab.Tactic.State Lean.Elab.TermElabM) ▶
  -- ...
```

Comment (Rob23oba) [reply src/Init/Control/Id.lean:65]: Besides, this breaks canonicity of `MonadLiftT Id _` instances, consider `MonadLiftT Id (ReaderT Nat (StateM Bool))`:
```
Id -- StateM Bool -- ReaderT Nat (StateM Bool)
Id -!- StateM Bool -- ReaderT Nat (StateM Bool)
Id -!- ReaderT Nat (StateM Bool)
```
and `MonadLiftT Id (ReaderT Nat (StateT Bool IO))`:
```
Id -!- IO -- StateT Bool IO -- ReaderT Nat (StateT Bool IO)
Id -!- StateT Bool IO -- ReaderT Nat (StateT Bool IO)
Id -!- ReaderT Nat (StateT Bool IO)
```
and `MonadLiftT Id Lean.CoreM`:
```
Id -!- EIO Exception -- StateRefT State (EIO Exception) -- Lean.CoreM
Id -!- StateRefT State (EIO Exception) -- Lean.CoreM
Id -!- IO -- Lean.CoreM
Id -!- Lean.CoreM
```
Note (`-!-` indicates this instance and `--` usual instances)

File: src/Init/Control/Lawful/MonadLift/Instances.lean [hunk 4]
```diff
@@ -0,0 +1,150 @@
...
+
+instance {ω σ : Type} {m : Type → Type} [Monad m] : LawfulMonadLift m (StateRefT' ω σ m) where
+  monadLift_pure _ := by
+    simp only [MonadLift.monadLift, pure]
+    unfold StateRefT'.lift ReaderT.pure
+    simp only
+  monadLift_bind _ _ := by
+    simp only [MonadLift.monadLift, bind]
+    unfold StateRefT'.lift ReaderT.bind
+    simp only
```
Comment (Rob23oba) [inline src/Init/Control/Lawful/MonadLift/Instances.lean:111]:
```suggestion
instance {ω σ : Type} {m : Type → Type} [Monad m] : LawfulMonadLift m (StateRefT' ω σ m) :=
  inferInstanceAs (LawfulMonadLift _ (ReaderT _ _))
```

File: src/Init/Control/Lawful/MonadLift/Instances.lean [hunk 5]
```diff
@@ -0,0 +1,150 @@
...
+
+variable [Monad m]
+
+instance {ρ : Type u} : LawfulMonadLift m (ReaderT ρ m) where
+  monadLift_pure _ := by
+    funext x
+    simp only [MonadLift.monadLift, pure, ReaderT.pure]
+  monadLift_bind _ _ := by
+    funext x
+    simp only [bind, ReaderT.bind, MonadLift.monadLift, Function.comp_apply]
```
Comment (Rob23oba) [inline src/Init/Control/Lawful/MonadLift/Instances.lean:54]:
```suggestion
  monadLift_pure _ := rfl
  monadLift_bind _ _ := rfl
```

File: src/Init/Control/Lawful/MonadLift/Lemmas.lean [hunk 6]
```diff
@@ -0,0 +1,63 @@
...
+theorem monadLift_seqRight [LawfulMonad m] [LawfulMonad n] (x : m α) (y : m β) :
+    monadLift (x *> y) = (monadLift x : n α) *> (monadLift y : n β) := by
+  simp only [seqRight_eq, monadLift_map, monadLift_seq]
+
+/-! We duplicate the theorems for `monadLift` to `liftM` since `rw` matches on syntax only. -/
+
+@[simp]
+theorem liftM_pure (a : α) : liftM (pure a : m α) = pure (f := n) a :=
+  monadLift_pure _
+
```
Comment (Rob23oba) [inline src/Init/Control/Lawful/MonadLift/Lemmas.lean:39]:
```suggestion

@[simp]
theorem liftM_id [Monad m] {_ : MonadLiftT Id m} [LawfulMonadLiftT Id m] (a : Id α) : liftM a = (pure a.run : m α) :=
  monadLift_pure _
```

File: src/Init/Control/Id.lean (hunk 3 above)
Comment (datokrat) [reply src/Init/Control/Id.lean:65]: I think I'm not comfortable with the `MonadLift Id m` instance anymore. The errors related to non-canonical instances are often unleasant in my experience. Manually adding a `MonadLiftT` instance would be a hack for which `lean4` doesn't have a precedent -- in particular, `MonadLiftT` wouldn't be the reflexive, transitive closure of `MonadLift` as the docs say. It wouldn't even be transitive anymore, since we only right-append `MonadLift` instances to `MonadLiftT` instances.

File: src/Init/Control/Lawful/MonadLift/Instances.lean (hunk 4 above)
Comment (datokrat) [reply src/Init/Control/Lawful/MonadLift/Instances.lean:111]: That doesn't seem to work on my machine (TM). `StateRefT'` is a `ReaderT (ST.Ref ω σ) m α` per definition, so we only have a `LawfulMonadLift (ST.Ref ω σ m) (StateRefT' m)` instance if I see it correctly.
